US08609653B2
(4-(chroman-6-yl)-1-(3,4-difluorobenzyl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)methanol
An ice cold solution of methyl 4-(chroman-6-yl)-1-(3,4-difluorobenzyl)-6-methyl-1H-pyrrolo[2,3-b]pyridine-5-carboxylate (1.019 g, 2.272 mmol) in tetrahydrofuran (THF) (10 mL) was treated with lithium aluminum hydride (1.0 M solution in tetrahydrofuran) (6.82 mL, 6.82 mmol) and the mixture was stirred at ambient temperature for 3 hours. The mixture was cooled to 0° C., water (259 uL) was added and the mixture was stirred 5 minutes. Then 15% NaOH (259 uL) was added and the mixture was stirred for 5 minutes. Finally, water (777 uL) was added, the mixture was diluted with ethyl acetate and then stirred 10 minutes. The mixture was filtered over Celite™ and the filtrate was concentrated to afford an off-white residue: 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.24-7.15 (m, 2 H), 7.14-7.01 (m, 3 H), 6.98 (dt, J=2.0, 4.0 Hz, 1 H), 6.91 (d, J=8.2 Hz, 1 H), 6.26 (d, J=3.5 Hz, 1 H), 5.45 (s, 2 H), 4.74 (d, J=3.9 Hz, 2 H), 4.35-4.21 (m, 2 H), 2.93-2.74 (m, 5 H), 2.18-1.96 (m, 2 H); LC/MS (m/z) ES+=421 (M+1).

reactant | methyl 4-(chroman-6-yl)-1-(3,4-difluorobenzyl)-6-methyl-1H-pyrrolo[2,3-b]pyridine-5-carboxylate | 2.272 mmol, 1.019 g | O1CCCC2=CC(=CC=C12)C1=C2C(=NC(=C1C(=O)OC)C)N(C=C2)CC2=CC(=C(C=C2)F)F | C26H22F2N2O3
reactant | lithium aluminum hydride | 6.82 mmol, 1.0 M, 6.82 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 259 uL | O | H2O
reactant | NaOH | 259 uL | [OH-].[Na+]
reactant | water | 777 uL | O | H2O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (4-(chroman-6-yl)-1-(3,4-difluorobenzyl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)methanol | O1CCCC2=CC(=CC=C12)C1=C2C(=NC(=C1CO)C)N(C=C2)CC2=CC(=C(C=C2)F)F | C25H22F2N2O2
